Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
naproxen / latex
 
Attending: ___.
 
Chief Complaint:
cavernous malformation 
 
Major Surgical or Invasive Procedure:
___: Left temporal craniectomy for cavernous malformation 

 
History of Present Illness:
___ year old female known to the Neurosurgical Service who has 
been conservatively monitored for known cavernous malformation.  
Recently, she has had more seizures related to her cavernous 
malformation slowly bleeding thus elected to now have it 
resected. 
 
Past Medical History:
thyroid cancer
cavernous malformation
seizures
 
Social History:
___
Family History:
nc
 
Physical Exam:
EXAM UPON DISCHARGE: 

Gen: WD/WN, comfortable, NAD.

HEENT: 
Pupils: PERRL ___        
EOMs: Intact

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 2 to 1mm 
bilaterally.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch
 
Pertinent Results:
___ CT HEAD W/O CONTRAST
IMPRESSION:  
  
1.  Status post resection of the left mesial temporal lobe mass, 
likely a 
cavernous malformation, with expected postsurgical changes, 
including 
involving blood products and bilateral pneumocephalus. 
  
2.  No shift of normally midline structures.  The basal cisterns 
are patent.  No unexplained intracranial hemorrhage. 

 
Brief Hospital Course:
Patient was electively admitted for cavernous malformation 
resection. OR was uneventful and patient was extubated in the OR 
and brought to the PACU for immediate post-operative care. In 
the PACU, patient complains of headache and nausea however 
nausea improving after medications. Patient will remain ICU 
level of care overnight. 

On ___, patient is neurologically and hemodynamically stable. 
Patient complains of intermittent nausea and incisional pain. 
Medications adjusted. Patient transferred to the floor with 
physical therapy consult.  

On ___,  patient is neurologically and hemodynamically 
stable. Patient states nausea is improved and is slowly 
increasing diet. Case management saw the patient and set the 
patient up for services at home. Patient to be discharged 
tomorrow. 

On ___, the patient remained neurologically and hemodynamically 
stable. She did not have any issues overnight. She was stable 
and deemed safe for discharge homw with services and appropriate 
follow-up. 
 
Medications on Admission:
keppra 750mg BID, Armour 90mg daily 

 
Discharge Medications:
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN headache 
Do not exceed 6 tab/day. Each tablet contains: Acetaminophen 
325mg, Butalbital 50mg, Caffeine 40mg  
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth every 6 hours as needed Disp #*45 Tablet 
Refills:*0
2. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
3. Docusate Sodium 100 mg PO BID 
4. LevETIRAcetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*45 Tablet Refills:*0
5. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*45 Tablet Refills:*0
6. Senna 17.2 mg PO QHS 
7. Thyroid 90 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cavernous Malformation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery

· You underwent a surgery called a craniotomy to have left 
cavernous malformation resection. 

· Please keep your sutures along your incision dry until they 
are removed.

·It is best to keep your incision open to air but it is ok to 
cover it when outside. 

·Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

 
Activity

· We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

· You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

·     No driving while taking any narcotic or sedating 
medication. 

·     If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

·     No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

· Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

· You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

· You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

· You may have difficulty paying attention, concentrating, and 
remembering new information.

· Emotional and/or behavioral difficulties are common. 

· Feeling more tired, restlessness, irritability, and mood 
swings are also common.

· You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 

· You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 

· Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:

· Headache is one of the most common symptoms after a brain 
bleed. 

· Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

· Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 

· There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/meditation, massage, acupuncture, heat or ice packs. 

When to Call Your Doctor at ___ for:

· Severe pain, swelling, redness or drainage from the incision 
site. 

· Fever greater than 101.5 degrees Fahrenheit

· Nausea and/or vomiting

· Extreme sleepiness and not being able to stay awake

· Severe headaches not relieved by pain relievers

· Seizures

· Any new problems with your vision or ability to speak

· Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

· Sudden numbness or weakness in the face, arm, or leg

· Sudden confusion or trouble speaking or understanding

·  Sudden trouble walking, dizziness, or loss of balance or 
coordination

·  Sudden severe headaches with no known reason

 
Followup Instructions:
___